US08486979B2
5-(3-(methylsulfonyl)phenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-(methylsulfonyl)benzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 3.24 (s, 3 H), 7.65 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 7.89-7.96 (m, 1 H), 8.28 (ddd, J=8.0, 1.9, 1.0 Hz, 1 H), 8.55-8.61 (m, 2 H), 8.75 (dd, J=5.1, 1.7 Hz, 1 H), 8.78 (t, J=1.5 Hz, 1 H), 9.32 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 302 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-(methylsulfonyl)benzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
reactant | NH3 | N | H3N
product | 5-(3-(methylsulfonyl)phenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | CS(=O)(=O)C=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C14H11N3O3S
